US07572797B2
N-[6-amino-5-(2,5-dichlorophenyl)pyrazin-2-yl]-1H-pyrazole-5-carboxamide
Oxalyl chloride (0.17 ml, 1.9 mmol) was added to a slurry of 2-(2-trimethylsilanylmethoxy-ethyl)-2H-pyrazole-3-carboxylic acid) (Heterocycles (1992) 34 303-314), (428 mg, 1.76 mmol) in dichloromethane (15 ml), 1 drop of dimethylformamide was added and the reaction stirred at room temperature under N2 for 1 hour before concentrating in vacuo and azeotroping with dichloromethane. The resulting acid chloride was dissolved in 5 ml acetonitrile and added to a solution of 3-(2,5-dichloro-phenyl)pyrazine-2,6-diamine (Preparation 11, 300 mg, 1.18 mmol) in acetonitrile (15 ml) and 2,6-lutidine (0.21 ml, 1.8 mmol). The reaction was stirred at room temperature under N2 for 72 hours before concentrating in vacuo then partitioning between 50 ml ethyl acetate and 50 ml water. The organic layer was dried over MgSO4 and concentrated in vacuo to give a brown oil which was purified by column chromatography (ethyl acetate, heptane, 1:2) to give 52 mg of the title product.

reactant | Oxalyl chloride | 1.9 mmol, 0.17 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(2-trimethylsilanylmethoxy-ethyl)-2H-pyrazole-3-carboxylic acid | C[Si](C)(C)COCCN1N=CC=C1C(=O)O | C10H18N2O3Si
reactant | 3-(2,5-dichloro-phenyl)pyrazine-2,6-diamine | 1.18 mmol, 300 mg | ClC1=C(C=C(C=C1)Cl)C=1C(=NC(=CN1)N)N | C10H8Cl2N4
reactant | 2,6-lutidine | 1.8 mmol, 0.21 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[6-amino-5-(2,5-dichlorophenyl)pyrazin-2-yl]-1H-pyrazole-5-carboxamide | 52 mg | NC1=C(N=CC(=N1)NC(=O)C1=CC=NN1)C1=C(C=CC(=C1)Cl)Cl | C14H10Cl2N6O
